US08431575B2
A suspension of 6-cyclohexyl-5-(4-cyclohexyloxy-phenyl)-2H-pyridazin-3-one (0.62 mmol, 0.22 g) in phosphorous oxychloride (6.7 mmol, 0.60 mL) was heated at 80° C. for 1 hour. The reaction mixture was cooled to room temperature and the volatiles were removed in vacuo. The residue was dissolved in ethyl acetate (25 mL), washed with water (25 mL), saturated NaHCO3 (2×10 mL) and dried (Na2SO4). The residue was purified on a 12 g SiO2 cartridge eluting with an ethyl acetate/hexanes gradient to give 6-chloro-3-cyclohexyl-4-(4-cyclohexyloxy-phenyl)-pyridazine (0.102 g).

reactant | 6-cyclohexyl-5-(4-cyclohexyloxy-phenyl)-2H-pyridazin-3-one | 0.62 mmol, 0.22 g | C1(CCCCC1)C=1C(=CC(NN1)=O)C1=CC=C(C=C1)OC1CCCCC1 | C22H28N2O2
reactant | phosphorous oxychloride | 6.7 mmol, 0.60 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-3-cyclohexyl-4-(4-cyclohexyloxy-phenyl)-pyridazine | 0.102 g | ClC1=CC(=C(N=N1)C1CCCCC1)C1=CC=C(C=C1)OC1CCCCC1 | C22H27ClN2O
